US05498774
Synthesis of ethyl 3-cyano-2-phenyl-imidazo[1,2-a]pyridin-8-carboxylate (Compound No. 1-121)
Ethyl 2-phenyl-imidazo[1,2-a]pyridine-8-carboxylate hydrogen bromide (1.96 g, 5.35 m mol), and triethylamine (0.55 g, 5.44 m mol) were added to acetonitrile (20 ml). To this solution was dropwise added a solution of chlorosulfonylisocyanate (ClSO2NCO) (0.8 ml, 9.19 m mol) in acetonitrile (5 ml) at an inner temperature of 0°-20° C. Then, the mixture was allowed to react at room temperature for an hour. After completion of the reaction, the mixture was concentrated under reduced pressure. The resulting concentrate to which water was added was extracted with dichloromethane, and the extract was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform) to give the object compound (1.06 g, yield 67.9%) as crystals. m.p. 87°-89° C.

reactant | Ethyl 2-phenyl-imidazo[1,2-a]pyridine-8-carboxylate hydrogen bromide | 1.96 g | Br.C1(=CC=CC=C1)C=1N=C2N(C=CC=C2C(=O)OCC)C1
reactant | triethylamine | 0.55 g | C(C)N(CC)CC | C6H15N
reactant | chlorosulfonylisocyanate | 0.8 ml | ClS(=O)(=O)N=C=O | CClNO3S
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | ethyl 3-cyano-2-phenyl-imidazo[1,2-a]pyridin-8-carboxylate | 1.06 g, yield 67.9% | C(#N)C1=C(N=C2N1C=CC=C2C(=O)OCC)C2=CC=CC=C2 | C17H13N3O2
